US05728699
Preparation of 4-Chloro-4'-methylsulfinylmethylbenzophenone (Compound No. VI-2)
4-chloro-4'-methylthiomethylbenzophenone (4.2 g) was added to methanol (150 ml). Sodium periodate (3.6 g) dissolved in water (20 ml), was added to this solution, and the mixture was stirred for 16 hours at room temperature. The reaction mixture was concentrated, and water was added thereto. The mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. The residual solid was washed with n-hexane to obtain the desired product (4.1 g, melting point: 116° to 118° C., yield: 93%).

reactant | 4-chloro-4'-methylthiomethylbenzophenone | 4.2 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CSC)C=C1 | C15H13ClOS
reactant | methanol | 150 ml | CO | CH4O
reactant | Sodium periodate | 3.6 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
product | 4-Chloro-4'-methylsulfinylmethylbenzophenone | 4.1 g, yield: 93% | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CS(=O)C)C=C1 | C15H13ClO2S
